US04649150
2-Methyl-4-(3-carbamoyl-4-amino-phenyl)-1H-imidazole
A mixture of 2-methyl-4-(3-cyano-4-amino-phenyl)-1H-imidazole (6.2 g), the ion exchanger Amerlite® IRA 400 (OH) (12 g) and water (150 ml) was refluxed for 5 hours. After cooling and filtration, the resulting solution was evaporated to dryness to give 4.1 g of the title compound.

reactant | 2-methyl-4-(3-cyano-4-amino-phenyl)-1H-imidazole | 6.2 g | CC=1NC=C(N1)C1=CC(=C(C=C1)N)C#N | C11H10N4
reactant | water | 150 ml | O | H2O
product | 2-Methyl-4-(3-carbamoyl-4-amino-phenyl)-1H-imidazole | 4.1 g | CC=1NC=C(N1)C1=CC(=C(C=C1)N)C(N)=O | C11H12N4O
